US04189594
3-[4'-(2-carboxyethyl)-phenoxy]-1-(4'-chlorophenoxy)-propane-2-on
A solution of 44.0 g (0.1 mol) 3-[4'-(2-phenylmethoxycarbonylethyl)-phenoxy]-1-(4'-chlorophenoxy)-propane-2-on in 1000 ml acetone is mixed with 1 ml acetic acid and, after the addition of 8 g (10%) palladium/carbon, hydrogenated until the calculated amount of hydrogen is absorbed. After the catalyst is separated, the filtrate is concentrated in vacuo, the residue is absorbed in chloroform and the acid is precipitated through addition of petrol ether. Colorless crystals, melting point 114°-5° C. (trichloroethylene): yield 24.20 g (69.4%).

reactant | 3-[4'-(2-phenylmethoxycarbonylethyl)-phenoxy]-1-(4'-chlorophenoxy)-propane-2-on | 0.1 mol, 44.0 g | C1(=CC=CC=C1)COC(=O)CCC1=CC=C(OCC(COC2=CC=C(C=C2)Cl)=O)C=C1 | C25H23ClO5
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
catalyst | palladium/carbon | 8 g | [Pd] | Pd
product | 3-[4'-(2-carboxyethyl)-phenoxy]-1-(4'-chlorophenoxy)-propane-2-on | C(=O)(O)CCC1=CC=C(OCC(COC2=CC=C(C=C2)Cl)=O)C=C1 | C18H17ClO5
